US08535974B2
Synthesis of N2,N7-di(naphthalen-1-yl)-N2,N7-diphenyl-9H-fluorene-2,7-diamine
To a 2-liter three-neck round bottom flask was added anhydrous toluene (1000 mL) by cannula. 2,7-dibromofluorene (50.0 g) was added to this flask, then stirred until all dissolved. N-phenyl-1-naphthylamine (81.14 g) was then added. The reaction vessel was purged with a strong nitrogen flow for 30 minutes, followed by the addition of sodium tert-butoxide (44.5 g) by funnel. Tris(dibenzylideneacetone)dipalladium(0) (5.65 g) was added to the reaction. Tri-tert-butyl phosphine (3.75 g) in anhydrous toluene (20 mL) was added via syringe. The reaction was heated to reflux for 2 hours and reaction completion was confirmed by thin-layer chromatography. The vessel was removed from heat and allowed to cool to room temperature. The reaction solution was filtered through a celite/silica gel plug and solvent was then removed by rotary evaporation. The crude material was initially purified by flash chromatography, followed by sublimation to yield NMR pure product.

reactant | 2,7-dibromofluorene | 50.0 g | BrC1=CC=2CC3=CC(=CC=C3C2C=C1)Br | C13H8Br2
reactant | N-phenyl-1-naphthylamine | 81.14 g | C1(=CC=CC=C1)NC1=CC=CC2=CC=CC=C12 | C16H13N
solvent | toluene | 1000 mL | C1(=CC=CC=C1)C | C7H8
product | N2,N7-di(naphthalen-1-yl)-N2,N7-diphenyl-9H-fluorene-2,7-diamine | C1(=CC=CC2=CC=CC=C12)N(C1=CC=2CC3=CC(=CC=C3C2C=C1)N(C1=CC=CC=C1)C1=CC=CC2=CC=CC=C12)C1=CC=CC=C1 | C45H32N2
